US04563310
In the same way, P-ethyl-2-nitro-5-(2-fluoro-4-trifluoromethylphenoxy)phenylphosphinic acid is reacted with methyl bromoacetate to give methoxycarbonylmethyl P-ethyl-2-nitro-5-(2-fluoro-4-trifluoromethylphenoxy)phenylphosphinate.

reactant | P-ethyl-2-nitro-5-(2-fluoro-4-trifluoromethylphenoxy)phenylphosphinic acid | C(C)P(O)(=O)C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)F)[N+](=O)[O-] | C15H12F4NO5P
reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
product | methoxycarbonylmethyl P-ethyl-2-nitro-5-(2-fluoro-4-trifluoromethylphenoxy)phenylphosphinate | C(C)P(OCC(=O)OC)(=O)C1=C(C=CC(=C1)OC1=C(C=C(C=C1)C(F)(F)F)F)[N+](=O)[O-] | C18H16F4NO7P
